US05849757
1-Benzyl-4-(1-tert-butoxycarbonylaminocyclobutyl)-2-pyrrolidone
A 15.13 g (59.5 mmol) portion of 4-(1-tert-butoxycarbonylaminocyclobutyl)-2-pyrrolidone was dissolved in 30.0 ml of N,N-dimethylformamide, cooled in an ice bath, mixed with 2.62 g (65.44 mmol) of sodium hydride (60% oil suspension) and then stirred at room temperature for 30 minutes. This was mixed with 7.78 ml (65.44 mmol) of benzyl bromide and stirred overnight at room temperature. Since the starting material partially remained, 1.19 g (29.74 mmol) of sodium hydride and 3.54 ml (29.74 mmol) of benzyl bromide were further added and stirred for additional 5 hours at room temperature. After evaporation of the solvent, the resulting residue was mixed with water, extracted with ethyl acetate and washed with saturated brine. After drying over anhydrous sodium sulfate, the solvent was evaporated. Thereafter, the resulting residue was purified by a silica gel column chromatography (silica gel 800 ml, ethyl acetate:hexane=10:1→1:1→2:1) to yield 5.65 g (28%) of the title compound.

reactant | 4-(1-tert-butoxycarbonylaminocyclobutyl)-2-pyrrolidone | C(C)(C)(C)OC(=O)NC1(CCC1)C1CC(NC1)=O | C13H22N2O3
reactant | sodium hydride | 65.44 mmol, 2.62 g | [H-].[Na+]
reactant | benzyl bromide | 65.44 mmol, 7.78 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydride | 29.74 mmol, 1.19 g | [H-].[Na+]
reactant | benzyl bromide | 29.74 mmol, 3.54 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 30.0 ml | CN(C=O)C | C3H7NO
product | 1-Benzyl-4-(1-tert-butoxycarbonylaminocyclobutyl)-2-pyrrolidone | 5.65 g, 28% | C(C1=CC=CC=C1)N1C(CC(C1)C1(CCC1)NC(=O)OC(C)(C)C)=O | C20H28N2O3
